US05925788
c) Step 3 2-trifluoromethoxy4,5-dichlorobenzenesulphonamide
At 20° C., 57 g (0.173 mol) of 2-trifluoromethoxy4,5-dichloro-benzene sulphochloride are metered to 200 ml of a 25% strength ammonia solution. After stirring of the mixture has continued for 1 hour, the solid is filtered off with suction and subsequently washed with water and dried. Yield 44 g (=83% of theory); melting point 181 to 185° C.

reactant | 2-trifluoromethoxy4,5-dichloro-benzene sulphochloride | 0.173 mol, 57 g | S(=O)(=O)(O)Cl.FC(OC1=CC=C(C(=C1)Cl)Cl)(F)F
reactant | ammonia | N | H3N
product | 2-trifluoromethoxy4,5-dichlorobenzenesulphonamide | FC(OC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)N)(F)F | C7H4Cl2F3NO3S
